US04911861
Fifteen grams of n-octanol, 7.5 g of 4-(4'-hydroxyphenyl)benzoic acid and 7.0 g of p-toluenesulfonic acid were dissolved with 100 ml of toluene in a three necked flask with a dehydration apparatus, and the mixture was refluxed for 15 hours. Water was added to the mixture to separate a toluene layer. Ten grams of 4-(4'-octyloxycarbonylphenyl)phenol (AB) were obtained by removing the toluene layer under reduced pressure followed concentration. (s)-4-(1-chloro-2-methylpropylcarbonyloxy)benzoic acid dispersed in 20 ml of carbon tetrachloride was reacted with 5 ml of thionyl chloride by refluxing for 3 hours. After removing the solvent (s)-4-(1-chloro-2-methylpropylcarbonyloxy)benzoic chloride (AC) was obtained. 1.5 g of (AC) was dissolved with mixed solvent of 80 ml of carbon tetrachloride and 10 ml of pyridine, and then 1.7 g of (AB) was added to the mixed solution with cooling and the mixture was allowed to stand overnight to obtain crystals.

reactant | n-octanol | Fifteen grams | C(CCCCCCC)O | C8H18O
reactant | 4-(4'-hydroxyphenyl)benzoic acid | 7.5 g | OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | p-toluenesulfonic acid | 7.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 4-(4'-octyloxycarbonylphenyl)phenol | Ten grams | C(CCCCCCC)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C21H26O3
